US07872033B2
5-isopropyl-2-methoxybenzoic acid
5-Isopropyl-2-methoxybenzaldehyde (2.8 g, 15.7 mmol) was dissolved in acetone (40 mL). To this solution was added sulfamic acid (2.29 g, 23.57 mmol) and sodium chlorite (1.71 g, 18.85 mmol) in water (40 mL). The mixture was stirred at rt in an open flask for 12 hrs. The acetone was removed and the mixture was extracted with Et2O. The organic layer was dried over MgSO4, filtered and concentrated to afford the title compound. MS (DCI/NH4+) m/z 212 (M+NH4)+.

reactant | 5-Isopropyl-2-methoxybenzaldehyde | 15.7 mmol, 2.8 g | C(C)(C)C=1C=CC(=C(C=O)C1)OC | C11H14O2
reactant | sulfamic acid | 23.57 mmol, 2.29 g | S(N)(O)(=O)=O | H3NO3S
reactant | sodium chlorite | 18.85 mmol, 1.71 g | Cl(=O)[O-].[Na+]
solvent | acetone | 40 mL | CC(=O)C | C3H6O
solvent | water | 40 mL | O | H2O
product | 5-isopropyl-2-methoxybenzoic acid | C(C)(C)C=1C=CC(=C(C(=O)O)C1)OC | C11H14O3
